US09227961B2
To a Compound 46 (S)-tert-butyl 3-methyl-2-((tetrahydro-2H-pyran-4-yloxy)carbonylamino)butanoate (0.21 g, 0.697 mmol) was added HCl in dioxane (15 mL, 60.0 mmol) and the mixture was stirred at room temperature under nitrogen for three hours. The reaction was done and concentrated under reduced pressure to provide F47 (S)-3-methyl-2-((tetrahydro-2H-pyran-4-yloxy)carbonylamino)butanoic acid (0.1694 g, 0.691 mmol, 100% yield) as a clear wax.

reactant | (S)-tert-butyl 3-methyl-2-((tetrahydro-2H-pyran-4-yloxy)carbonylamino)butanoate | 0.697 mmol, 0.21 g | CC([C@@H](C(=O)OC(C)(C)C)NC(=O)OC1CCOCC1)C | C15H27NO5
reactant | HCl | Cl | ClH
reactant | dioxane | 60.0 mmol, 15 mL | O1CCOCC1 | C4H8O2
product | (S)-3-methyl-2-((tetrahydro-2H-pyran-4-yloxy)carbonylamino)butanoic acid | 0.691 mmol, 0.1694 g, 100% yield | CC([C@@H](C(=O)O)NC(=O)OC1CCOCC1)C | C11H19NO5
